US09107916B2
A. 2-[5-[(4-chloro-2-methoxyphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-chloro-2-methoxyphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 3.89 (3H, s), 5.22 (2H, s), 5.78 (1H, d, J=2.0 Hz), 6.92 (1H, d, J=2.0 Hz), 6.95-6.98 (1H, m), 7.33-7.35 (1H, m), 7.39 (1H, dd, J=1.2, 5.2 Hz), 7.57-7.58 (1H, m), 8.06 (1H, s), 8.70 (1H, d, J=5.2 Hz). [M+H] Calc'd for C17H13ClN4O2, 341. Found, 341.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-chloro-2-methoxyphenyl)methanol | ClC1=CC(=C(C=C1)CO)OC | C8H9ClO2
product | 2-[5-[(4-chloro-2-methoxyphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OC | C17H13ClN4O2
